US05650533
2-Methyl-2-propanethiol (7.47 g) was added to a suspension of potassium carbonate (9.52 g) in acetone. Ethyl 2-chloro-4-nitrobenzoate (10 g) was added and the mixture was stirred at room temperature overnight. Further 2-methyl-2-propanethiol (1.0 g) was added and the mixture was stirred and heated to 30° C. for 1 hour. Further 2-methyl-2-propanethiol (1.0 g) was added and the mixture was stirred and heated at reflux for 0.5 hours. Potassium carbonate (9.52 g) and 2-methyl-2-propanethiol was added and the mixture was stirred and heated at reflux overnight. Water was added and it was extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give ethyl 2-chloro-4-(1,1-dimethylethylsulphenyl)benzoate (12.1 g) as a red oil NMR (CDCl3) 1.3 (s,9H) 1.35(t,3H) 4.3(q,2H) 7.1-7.7 (m,3H).

reactant | 2-Methyl-2-propanethiol | 7.47 g | CC(C)(C)S | C4H10S
reactant | potassium carbonate | 9.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl 2-chloro-4-nitrobenzoate | 10 g | ClC1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | 2-methyl-2-propanethiol | 1.0 g | CC(C)(C)S | C4H10S
reactant | 2-methyl-2-propanethiol | 1.0 g | CC(C)(C)S | C4H10S
reactant | Potassium carbonate | 9.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 2-chloro-4-(1,1-dimethylethylsulphenyl)benzoate | 12.1 g | ClC1=C(C(=O)OCC)C=CC(=C1)SC(C)(C)C | C13H17ClO2S
